US07119200B2
Pd(PPh3)4 (0.404 gm, 0.35 mmol) was added to a degassed solution of 4-cyanobenzene boronic acid (1.029 g, 7 mmol) and 2-bromopyridine (1.11 g, 7 mmol) in 75 mL acetonitrile. 0.4 M sodium carbonate solution (35 mL) was added to the reaction mixture and the resulting solution was refluxed at 90° C. under Ar for 24 hours (progress of reaction was monitored by TLC). The reaction mixture was cooled and aqueous layer was separated. The organic layer containing the product and spent catalyst was mixed with silica gel (15 g) and concentrated to dryness. The 4-(2-pyridyl)-benzonitrile was isolated by column chromatography (0.850 g, 68%). LCMS: MH+=181; 1H NMR (CDCl3) δ 8.85 (d, 1H), 8.7 (dd, 1H), 7.9 (dd, 1H), 7.75 (d, 2H), 7.7 (d, 2H), 7.4 (dd, 1H).

reactant | 4-cyanobenzene boronic acid | 7 mmol, 1.029 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 2-bromopyridine | 7 mmol, 1.11 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 0.4 M, 35 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)4 | 0.35 mmol, 0.404 gm | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-pyridyl)-benzonitrile | N1=C(C=CC=C1)C1=CC=C(C#N)C=C1 | C12H8N2
